US07947677B2
(7S)-2-{[4-Oxo-2a-(2-oxo-2-pyrrolidin-1-ylethyl)-2a,3,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-1(2H)-yl]methyl}-6,8-dihydrospiro[cyclopenta[g]quinoline-7,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one, Diastereomer A
A mixture of [4-oxo-1-{[(7S)-2′-oxo-1′,2′,6,8-tetrahydrospiro[cyclopenta[g]quinoline-7,3′-pyrrolo[2,3-b]pyridin]-2-yl]methyl}-1,2,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-2a(3H)-yl]acetic acid, diastereomer A (50 mg, 0.094 mmol, described in Example 2), pyrrolidine (20 mg, 0.282 mmol), EDC (22 mg, 0.113 mmol), HOBT (17 mg, 0.113 mmol), and N,N-diisopropylethylamine (0.082 mL, 0.470 mmol) was stirred in DMF (0.5 mL) at ambient temperature for 18 h. The reaction mixture was partitioned between saturated aqueous NaHCO3 (20 mL) and CH2Cl2 (10 mL). The organic layer was removed and the aqueous layer was extracted further with CH2Cl2 (2×10 mL). The combined organic extracts were washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:MeOH—100:0 to 95:5, to give the title compound. MS: m/z=585 (M+1). HRMS: m/z=585.2620; calculated m/z=585.2609 for C35H33N6O3.

reactant | [4-oxo-1-{[(7S)-2′-oxo-1′,2′,6,8-tetrahydrospiro[cyclopenta[g]quinoline-7,3′-pyrrolo[2,3-b]pyridin]-2-yl]methyl}-1,2,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-2a(3H)-yl]acetic acid | O=C1NC=2C=CC=C3C2C(C1)(CN3CC3=NC1=CC2=C(C=C1C=C3)C[C@]3(C(NC1=NC=CC=C13)=O)C2)CC(=O)O | C31H25N5O4
reactant | pyrrolidine | 0.282 mmol, 20 mg | N1CCCC1 | C4H9N
reactant | EDC | 0.113 mmol, 22 mg
reactant | HOBT | 0.113 mmol, 17 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.470 mmol, 0.082 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (7S)-2-{[4-Oxo-2a-(2-oxo-2-pyrrolidin-1-ylethyl)-2a,3,4,5-tetrahydropyrrolo[4,3,2-de]quinolin-1(2H)-yl]methyl}-6,8-dihydrospiro[cyclopenta[g]quinoline-7,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | O=C1NC=2C=CC=C3C2C(C1)(CN3CC3=NC1=CC2=C(C=C1C=C3)C[C@]3(C(NC1=NC=CC=C13)=O)C2)CC(N2CCCC2)=O | C35H32N6O3
